US07576091B2
2-Methylamino-5,6-dihydro-4H-benzothiazol-7-one
A solution of 2-bromo-cyclohexane-1,3-dione (8.0 g, 41.9 mmol) and methyl thiourea (3.77 g, 41.9 mmol) in pyridine (63 mL) was stirred at room temperature for 16 h. The reaction mixture was concentrated under vacuum, extracted with CH2Cl2 /10% aq NaCl solution, dried, filtered, and concentrated under vacuum. Crystallization from EtOAc afforded the title compound as yellow crystals (3.26 g, 43%): mp 180-182° C. Anal. RP-HPLC: tR 8.4 min (0-60% MeCN, purity 100%). 1H-NMR (CDCl3): δ 7.90 (s, 1H, NH), 2.99 (s, 3H, CH3), 2.72 (t, 2H, J 6.1, CH2), 2.49 (t, 2H, J 6.1, CH2), 2.10 (qu, 2H, J 6.1, CH2). 13C-NMR (CDCl3): δ 191.0, 176.6, 168.0, 120.0, 37.5, 32.5, 27.7, 23.2. MS: (ESI+) m/z 183.07 (M+H)+.

reactant | 2-bromo-cyclohexane-1,3-dione | 41.9 mmol, 8.0 g | BrC1C(CCCC1=O)=O | C6H7BrO2
reactant | methyl thiourea | 41.9 mmol, 3.77 g | CNC(=S)N | C2H6N2S
solvent | pyridine | 63 mL | N1=CC=CC=C1 | C5H5N
product | 2-Methylamino-5,6-dihydro-4H-benzothiazol-7-one | 3.26 g, 43% | CNC=1SC2=C(N1)CCCC2=O | C8H10N2OS
